US07318843B2
(i) 1-[bis(2-hydroxyehtyl)amino]-3-[(2-ethylhexyl)oxy]-2-propanol
A three-necked, septum capped, 250 mL, round-bottom flask equipped with an addition funnel and containing a magnetic stirring bar is flushed with argon and charged with 2-ethylhexylglycidyl ether (66.53 g, 0.35 mol). Diethanolamine (40.89 g, 0.38 mol) is added during 10 min to the glycidyl ether, with stirring. The flask is placed in an oil bath and heated at a bath temperature of 75-80° C. overnight. The reaction is cooled and checked by 1H NMR to ensure the complete consumption of the glycidyl ether. A colorless viscous liquid is obtained.

reactant | 2-ethylhexylglycidyl ether | 0.35 mol, 66.53 g | C(C)C(COCC1CO1)CCCC | C11H22O2
reactant | Diethanolamine | 0.38 mol, 40.89 g | N(CCO)CCO | C4H11NO2
reactant | glycidyl ether | C(C1CO1)OCC1CO1 | C6H10O3
product | 1-[bis(2-hydroxyehtyl)amino]-3-[(2-ethylhexyl)oxy]-2-propanol | OCCN(CC(COCC(CCCC)CC)O)CCO | C15H33NO4
